US09340546B2
N-methyl-4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine (243 mg, 0.9670 mmol) was dissolved in methanol (10 mL) and Pd on C, wet, Degussa (50 mg, 0.4698 mmol) was added. The reaction was evacuated and filled with hydrogen three times and left to stir at RT overnight. The catalyst was filtered off and the solvent was removed under reduced pressure to yield N2-methyl-4-(4-methylpiperazin-1-yl)pyridine-2,5-diamine (173 mg, 81%). MS (ES+) 222.1.

reactant | N-methyl-4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine | 0.9670 mmol, 243 mg | CNC1=NC=C(C(=C1)N1CCN(CC1)C)[N+](=O)[O-] | C11H17N5O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | N2-methyl-4-(4-methylpiperazin-1-yl)pyridine-2,5-diamine | 173 mg, 81% | CNC1=NC=C(C(=C1)N1CCN(CC1)C)N | C11H19N5
